US06001839
Dilute hydrochloric acid (45 ml of 2M solution) was added to 5-(4-phenoxyphenyl)-7-(2-phenyl-1,3-dioxan-5-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (170 mg) and the mixture heated to boiling under reflux. Propan-1-ol (30 ml) was added and the mixture boiled under reflux for 6 hours and then the propanol was distilled off. The mixture was evaporated under reduced pressure to give a residue which was triturated with ethyl acetate and then filtered to give a solid which was dissolved in methanol, and purified by chromatography to give 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propan-1,3-diol. The structure was confirmed by 1H nmr and mass spectra.

reactant | hydrochloric acid | 2M, 45 ml | Cl | ClH
reactant | 5-(4-phenoxyphenyl)-7-(2-phenyl-1,3-dioxan-5-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 170 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2COC(OC2)C2=CC=CC=C2 | C28H24N4O3
reactant | Propan-1-ol | 30 ml | C(CC)O | C3H8O
solvent | methanol | CO | CH4O
product | 2-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]propan-1,3-diol | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C(CO)CO | C21H20N4O3
